US05726172
To a stirred solution of methyl 4-[4-sulfonylpyranoyloxy]-2-methoxybenzoate (470 mg, 1.5 mmol)in THF:H2O (18 mL: 2 mL) was added LiOH.H2O (128 mg, 3 mmol). The reaction was heated to 45° C. over 12 h and then cooled to ambient temperature. The solvent was removed under reduced pressure. The crude solid passed through a plug of silca gel packed in 80:20 hexanes:EtOAc and eluted with same. The solvent was removed under reduced pressure to afford 4-[4-sulfonylpyranoyloxy]-2-methoxybenzoic acid as a white solid.

reactant | methyl 4-[4-sulfonylpyranoyloxy]-2-methoxybenzoate | 1.5 mmol, 470 mg | S(=O)(=O)=C1C=C(OC=C1)C(=O)OC1=CC(=C(C(=O)OC)C=C1)OC | C15H12O8S
reactant | H2O | 18 mL | O | H2O
reactant | LiOH.H2O | 3 mmol, 128 mg | O[Li].O
solvent | THF | C1CCOC1 | C4H8O
product | 4-[4-sulfonylpyranoyloxy]-2-methoxybenzoic acid | S(=O)(=O)=C1C=C(OC=C1)C(=O)OC1=CC(=C(C(=O)O)C=C1)OC | C14H10O8S
